US06214869B1
(cis)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl]methyl]propanamide
A solution of (cis)-2-(2,3-dihydrobenzofuran-4-yl)cycloprop-1-yl methyl amine (0.43 mmol), triethylamine (1.30 mmol) and propionyl chloride (0.65 mmol) in 10 mL of methylene chloride was stirred at room temperature overnight. The reaction mixture was washed with brine (2×20 mL). The organic phase was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by silica gel column chromatography (Hex:EtOAc, 4:1) provided 23 mg of the desired product (22%) as a yellow oil. HPLC purity >95%.

reactant | (cis)-2-(2,3-dihydrobenzofuran-4-yl)cycloprop-1-yl methyl amine | 0.43 mmol | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)NC | C12H15NO
reactant | triethylamine | 1.30 mmol | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.65 mmol | C(CC)(=O)Cl | C3H5ClO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (cis)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl]methyl]propanamide | 23 mg, 22% | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)CNC(CC)=O | C15H19NO2
